US20010036950A1
1-[8-(3,4-dichlorophenyl)-3,4,5,8-tetrahydro-6-methyl-1,1-dioxido-2H-thiopyrano [3,2-b]pyridin-7-yl]ethanone
A solution of tetrahydrothiopyran-3-one-1,1-dioxide (255 mg, 1.72 mmol), 3,4-dichlorobenzaldehyde (250 mg, 1.43 mmol) and 4-amino-3-penten-2-one (140 mg, 1.41 mmol) in ethanol (5 mL) was heated to reflux for 24 hours and cooled. The solid that precipitated was collected, washed with ethanol, and dried to provide the title compound. MS (APCI) m/e 386 (M+H)+, 388 (M+H)+; 1H NMR (DMSO-d6) 2.19 (m, 2H), 2.20 (s, 3H), 2.30 (s, 3H), 2.50 (m, 2H), 3.20 (m, 2H), 5.07 (s, 1H), 7.15 (dd, 1H), 7.34 (d, 1H), 7.51 (d, 1H), 9.15 (br s, 1H); Anal. Calcd for C17H17Cl2NO3S: C, 52.86; H, 4.44; N, 3.63. Found: C, 52.74; H, 4.39; N, 3.64.

reactant | tetrahydrothiopyran-3-one-1,1-dioxide | 1.72 mmol, 255 mg | S1(CC(CCC1)=O)(=O)=O | C5H8O3S
reactant | 3,4-dichlorobenzaldehyde | 1.43 mmol, 250 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 4-amino-3-penten-2-one | 1.41 mmol, 140 mg | NC(=CC(C)=O)C | C5H9NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-[8-(3,4-dichlorophenyl)-3,4,5,8-tetrahydro-6-methyl-1,1-dioxido-2H-thiopyrano [3,2-b]pyridin-7-yl]ethanone | ClC=1C=C(C=CC1Cl)C1C2=C(NC(=C1C(C)=O)C)CCCS2(=O)=O | C17H17Cl2NO3S
